US04616017
To a solution of 1-(3-fluoro-2-pyridyl)piperazine (453 mg, 2.5 mmol) in 5 ml of isopropanol stirred at 70° C. under nitrogen was added portionwise 2-cyanophenoxy-2,3-epoxypropane (438 mg, 2.5 mmol) and the mixture stirred for 21/2 hours at 70° C. The solvent was removed in vacuo at room temperature and the residual oil was chromatographed on silica gel eluting with 5% methanol-chloroform. The product was obtained as a colorless oil which slowly solidified upon trituration in hexane to yield 0.66 g of 1-[3-(2-cyanophenoxy)-2-hydroxypropyl]-4-(3-fluoro-2-pyridyl)piperazine; m.p. 68°-70° C. Analysis satisfactory for C19H21FN4O2.

reactant | 1-(3-fluoro-2-pyridyl)piperazine | 2.5 mmol, 453 mg | FC=1C(=NC=CC1)N1CCNCC1 | C9H12FN3
reactant | 2-cyanophenoxy-2,3-epoxypropane | 2.5 mmol, 438 mg | C(#N)C1=C(OCC2CO2)C=CC=C1 | C10H9NO2
solvent | isopropanol | 5 ml | C(C)(C)O | C3H8O
solvent | hexane | CCCCCC | C6H14
product | 1-[3-(2-cyanophenoxy)-2-hydroxypropyl]-4-(3-fluoro-2-pyridyl)piperazine | 0.66 g | C(#N)C1=C(OCC(CN2CCN(CC2)C2=NC=CC=C2F)O)C=CC=C1 | C19H21FN4O2
